US07064124B2
3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (0.55 g, 1.21 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (1.67 g, 3.03 mmol) at room temperature, the solution was stirred at room temperature for 2 hours. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.250 g, 0.592 mmol, 49%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 1.21 mmol, 0.55 g | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | CAN | 3.03 mmol, 1.67 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.592 mmol, 0.250 g, 49% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OCC1=CC=CC=C1)C)=O | C24H22O7
